US05244863
A solution of N-(3-trifluoromethylphenyl)-N'-ethoxycarbonylthiourea (1.8 g), dibromoethane (1.29 g) and anhydrous potassium carbonate (2.6 g) in acetone (20 ml) was refluxed for 5 hours. The solvent was removed by distillation, and the residue was extracted with diethyl ether. The extract was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from a mixture of hexane and ethanol to give 1.63 g of 2-ethoxycarbonylimino-3-(3-trifluoromethylphenyl)thiazolidine. m.p., 75.8° C.

reactant | N-(3-trifluoromethylphenyl)-N'-ethoxycarbonylthiourea | 1.8 g | FC(C=1C=C(C=CC1)NC(=S)NC(=O)OCC)(F)F | C11H11F3N2O2S
reactant | dibromoethane | 1.29 g | BrC(C)Br | C2H4Br2
reactant | potassium carbonate | 2.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-ethoxycarbonylimino-3-(3-trifluoromethylphenyl)thiazolidine | 1.63 g | C(C)OC(=O)N=C1SCCN1C1=CC(=CC=C1)C(F)(F)F | C13H13F3N2O2S
